### PR TITLE
[Merged by Bors] - feat(Analysis.Calculus.FDeriv.Analytic + Analysis.Complex.TaylorSeries): Taylor series of holomorphic functions

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
See [here](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/The.20Taylor.20series.20of.20an.20entire.20function.20converges.20to.20it/near/417334632) on Zulip.

This adds some general lemmas due to Junyan Xu, culminating in
```lean
theorem HasFPowerSeriesOnBall.hasSum_iteratedFDeriv {𝕜 : Type*} [NontriviallyNormedField 𝕜] {E : Type*}
    [ NormedAddCommGroup E] [NormedSpace 𝕜 E] {F : Type*} [NormedAddCommGroup F]
    [NormedSpace 𝕜 F] {p : FormalMultilinearSeries 𝕜 E F} {f : E → F} {x : E} {r : ℝ≥0∞}
    (h : HasFPowerSeriesOnBall f p x r) [CompleteSpace F] [CharZero 𝕜] {y : E} (hy : y ∈ EMetric.ball 0 r) :+1:
    HasSum (fun n ↦ (n ! : 𝕜)⁻¹• (iteratedFDeriv 𝕜 n f x) fun x ↦ y) (f (x + y))
```
and uses this to show that the Taylor series of a function that is complex differentiable on an open ball in ℂ converges there to the function; similarly for functions that are holomorphic on all of ℂ:
```lean
lemma Complex.hasSum_taylorSeries_on_ball {E : Type*} [NormedAddCommGroup E] [NormedSpace ℂ E]
    [CompleteSpace E] ⦃f : ℂ → E⦄ ⦃c : ℂ⦄ ⦃r : NNReal⦄ (hf : DifferentiableOn ℂ f (Metric.ball c ↑r)) ⦃z : ℂ⦄
    (hz : z ∈ Metric.ball c ↑r) :
    HasSum (fun n ↦ (n ! : ℂ)⁻¹ • (z - c) ^ n • iteratedDeriv n f c) (f z)

lemma Complex.taylorSeries_eq_on_ball {E : Type*} [NormedAddCommGroup E] [NormedSpace ℂ E]
    [CompleteSpace E] ⦃f : ℂ → E⦄ ⦃c : ℂ⦄ ⦃r : NNReal⦄ (hf : DifferentiableOn ℂ f (Metric.ball c ↑r)) ⦃z : ℂ⦄
    (hz : z ∈ Metric.ball c ↑r) : 
    ∑' (n : ℕ), (n ! : ℂ)⁻¹ • (z - c) ^ n • iteratedDeriv n f c = f z

lemma Complex.taylorSeries_eq_on_ball' ⦃c : ℂ⦄ ⦃r : NNReal⦄ ⦃z : ℂ⦄ (hz : z ∈ Metric.ball c ↑r) {f : ℂ → ℂ}
    (hf : DifferentiableOn ℂ f (Metric.ball c ↑r)) : 
    ∑' (n : ℕ), (n ! : ℂ)⁻¹ * iteratedDeriv n f c * (z - c) ^ n = f z
```
and similar lemmas for `EMetric.ball`s and entire functions.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/FDeriv/Analytic.lean [hunk 1]
```diff
@@ -294,3 +296,71 @@ theorem CPolynomialOn.iterated_deriv (h : CPolynomialOn 𝕜 f s) (n : ℕ) :
...
+  · rw [iteratedFDeriv_zero_apply, add_zero]
+  · rw [tsum_eq_single 0 <| fun n hn ↦ by haveI := NeZero.mk hn; exact (p n).map_zero]
+    exact congr(p 0 $(Subsingleton.elim _ _))
+
+open ContinuousLinearMap
+
+private theorem factorial_smul' {n : ℕ} : ∀ {F : Type max u v} [NormedAddCommGroup F]
+    [NormedSpace 𝕜 F] [CompleteSpace F] {p : FormalMultilinearSeries 𝕜 E F}
+    {f : E → F}, HasFPowerSeriesOnBall f p x r →
+    n ! • p n (fun _ ↦ y) = iteratedFDeriv 𝕜 n f x (fun _ ↦ y) := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:343]: I'm a little bit sad with this lemma, as its statement is not the right one: the right statement is that `iteratedFDeriv 𝕜 n f x v` (where `v` doesn't have to be constant) is equal to the sum over all permutations `sigma` of `p n (v (sigma 1), ..., v (sigma n))`. When you specialize to a constant `v`, you get your formula, but it's impossible to recover the general formula from your lemma in general (in particular in positive characteristic). Is there a hope to get the general formula using your approach?

Comment (alreadydone) [reply Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:343]: @sgouezel Yes that's exactly what I was saying [here on Zulip](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/The.20Taylor.20series.20of.20an.20entire.20function.20converges.20to.20it/near/418229884). I was able to formulate `factorial_smul` immediately after seeing @MichaelStollBayreuth's Zulip question, but it took more time to convince myself that the stronger statement is also true. I have now formulated the stronger statement [here](https://github.com/leanprover-community/mathlib4/compare/symmetrize_changeOrigin_eq_iteratedDeriv?expand=1#diff-afc1a6ce1a23be3624955d95e5804e193249ed762e40bc3f4adf5cecc0cb9822R105-R107) and it shouldn't be too hard to prove by induction, but have not yet found time to tackle the proof, and I realized I should extract an equality between two series, and generalize `symmetrize` to arbitrary DistribMulAction (by a group) on an AddCommMonoid (people may have defined this this when doing group cohomology / representation ...). I agree that the current proof is a "hack" and should be refactor using the stronger statement.

Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:343]: So would it be OK to go ahead with this PR and do the refactor later?

Comment (alreadydone) [reply Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:343]: That's fine with me!

File: Mathlib/Analysis/Calculus/FDeriv/Analytic.lean [hunk 2]
```diff
@@ -294,3 +296,71 @@ theorem CPolynomialOn.iterated_deriv (h : CPolynomialOn 𝕜 f s) (n : ℕ) :
...
+
+namespace FormalMultilinearSeries
+
+variable (p : FormalMultilinearSeries 𝕜 E F)
+
+/-- This series appears in `HasFPowerSeriesOnBall.fderiv` -/
+noncomputable
+def derivSeries : FormalMultilinearSeries 𝕜 E (E →L[𝕜] F) :=
+  (continuousMultilinearCurryFin1 𝕜 E F : (E[×1]→L[𝕜] F) →L[𝕜] E →L[𝕜] F)
+    |>.compFormalMultilinearSeries (p.changeOriginSeries 1)
```
Comment (alreadydone) [inline Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:308]: Now that we've made this a def, we should probably use this def in statements (for example `HasFPowerSeriesOnBall.fderiv`) as much as possible.

Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:308]: But maybe not in this PR...

Comment (alreadydone) [reply Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:308]: There are just three occurrences:
`HasFPowerSeriesOnBall.fderiv`
`HasFiniteFPowerSeriesOnBall.fderiv`
`HasFiniteFPowerSeriesOnBall.fderiv'`
where the long expression can be replaced by `p.derivSeries`.

File: Mathlib/Analysis/Complex/TaylorSeries.lean [hunk 3]
```diff
@@ -0,0 +1,98 @@
...
+
+namespace Complex
+
+open BigOperators Nat
+
+variable {E : Type*} [NormedAddCommGroup E] [NormedSpace ℂ E] [CompleteSpace E] ⦃f : ℂ → E⦄
+
+section ball
+
+variable ⦃c : ℂ⦄ ⦃r : NNReal⦄ (hf : DifferentiableOn ℂ f (Metric.ball c r))
```
Comment (alreadydone) [inline Mathlib/Analysis/Complex/TaylorSeries.lean:31]: Can you add versions with `EMetric.ball`? And why not allow `r` to be a real? EMetric.ball takes an ENNReal but Metric.ball takes a Real.

File: Mathlib/Analysis/Complex/TaylorSeries.lean [hunk 4]
```diff
@@ -0,0 +1,98 @@
...
+
+variable ⦃f : ℂ → E⦄ (hf : Differentiable ℂ f) (c z : ℂ)
+
+/-- A function that is complex differentiable on the complex plane is given by evaluating
+its Taylor series at any point `c`. -/
+lemma hasSum_taylorSeries_of_entire :
+    HasSum (fun n : ℕ ↦ (n ! : ℂ)⁻¹ • (z - c) ^ n • iteratedDeriv n f c) (f z) := by
+  have hf' : DifferentiableOn ℂ f
+      (Metric.ball c (⟨1 + ‖z - c‖, add_nonneg zero_le_one <| norm_nonneg _⟩ : NNReal)) :=
+    hf.differentiableOn
```
Comment (alreadydone) [inline Mathlib/Analysis/Complex/TaylorSeries.lean:78]: I ask because you should be able to use EMetric.ball with infinite radius here ...

File: Mathlib/Analysis/Complex/TaylorSeries.lean [hunk 5]
```diff
@@ -0,0 +1,98 @@
...
+# Convergence of Taylor series of holomorphic functions
+
+We show that the Taylor series around some point `c : ℂ` of a function `f` that is complex
+differentiable on the open ball of radius `r` around `c` converges to `f` on that open ball;
+see `Complex.hasSum_taylorSeries_on_ball` and `Complex.taylorSeries_eq_on_ball` for versions
+(in terms of `HasSum` and `tsum`, repsectively) for functions to a complete normed
+space over `ℂ`, and `Complex.taylorSeries_eq_on_ball'` for a variant when `f : ℂ → ℂ`.
+
+We also show that the Taylor series around some point `c : ℂ` of a function `f` that is complex
+differentiable on all of `ℂ` converges to  `f` on `ℂ`;
```
Comment (alreadydone) [inline Mathlib/Analysis/Complex/TaylorSeries.lean:18]:
```suggestion
differentiable on all of `ℂ` converges to `f` on `ℂ`;
```

**Review by alreadydone — APPROVED** [review]
LGTM otherwise

File: Mathlib/Analysis/Calculus/FDeriv/Analytic.lean [hunk 6]
```diff
@@ -294,3 +296,71 @@ theorem CPolynomialOn.iterated_deriv (h : CPolynomialOn 𝕜 f s) (n : ℕ) :
   · simpa only [Function.iterate_succ', Function.comp_apply] using IH.deriv
 
 end deriv
+
+namespace FormalMultilinearSeries
+
+variable (p : FormalMultilinearSeries 𝕜 E F)
+
+/-- This series appears in `HasFPowerSeriesOnBall.fderiv` -/
```
[the remark this answers is not in the document]
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:304]: OK.

File: Mathlib/Analysis/Calculus/FDeriv/Analytic.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:308]: OK.

File: Mathlib/Analysis/Calculus/FDeriv/Analytic.lean [hunk 7]
```diff
@@ -294,3 +296,71 @@ theorem CPolynomialOn.iterated_deriv (h : CPolynomialOn 𝕜 f s) (n : ℕ) :
...
+
+namespace HasFPowerSeriesOnBall
+
+open FormalMultilinearSeries ENNReal Nat
+
+variable {p : FormalMultilinearSeries 𝕜 E F} {f : E → F} {x : E} {r : ℝ≥0∞}
+  (h : HasFPowerSeriesOnBall f p x r) (y : E)
+
+theorem iteratedFDeriv_zero_apply_diag :
+    iteratedFDeriv 𝕜 0 f x (fun _ ↦ y) = p 0 (fun _ ↦ y) := by
```
[the remark this answers is not in the document]
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:332]: OK.

File: Mathlib/Analysis/Complex/TaylorSeries.lean (hunk 3 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Complex/TaylorSeries.lean]: Done.

**Comment by alreadydone** [comment]
Thanks!
maintainer merge
Disclaimer: I wrote the parts in the files **other than** [Analysis/Complex/TaylorSeries.lean](https://github.com/leanprover-community/mathlib4/pull/10087/files#diff-c211aec3c9f487f72fc1d380dfa2e8ef337cc52f633d2fdda508af03638d7c9c)

**Comment by sgouezel** [comment]
bors r+
Thanks!
